US07018997B2
Step 3: Preparation of 4-nitrobenzyl (5R)-6-[(acetyloxy)(3.4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazol-7-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate
A 30 ml acetonitrile solution of 3,4-Dihydro-2H-1-thia-4a,9-diaza-fluorene-6-carbaldehyde (660 mg, 3 mmol) was added 1.03 gram of magnesium bromide etherate. The mixture was stirred at 23° C. for half an hour. Then a 30 ml dry THF solution of the 6-Bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (1.15 g, 3 mmol) was injected within a minute and the reaction mixture was then cooled to −20° C. Triethylamine (0.7 ml, eq.) was then injected and the reaction mixture was stirred for five hours at −20° C. Then acetic anhydride (0.377 ml, eq.) was injected and the reaction mixture was left at zero degree for 18 hours. The reaction media was then diluted with 400 ml ethyl acetate and washed with 100 ml 5% citric acid, 100 ml saturated sodium bicarbonate, and 100 ml brine. The organic layer was then dried over magnesium sulfate, filtered and concentrated. Flash column chromatography using 20% ethyl acetate in hexane gave 690 mg product. (36% Yield); MS: 644.9 (M+H)

reactant | 3,4-Dihydro-2H-1-thia-4a,9-diaza-fluorene-6-carbaldehyde | 3 mmol, 660 mg | S1CCCN2C3=CC(=CC=C3N=C12)C=O | C11H10N2OS
reactant | magnesium bromide | 1.03 gram | [Br-].[Mg+2].[Br-]
reactant | 6-Bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 3 mmol, 1.15 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C(C3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | acetic anhydride | 0.377 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-nitrobenzyl (5R)-6-[(acetyloxy)(3.4-dihydro-2H-[1,3]thiazino[3,2-a]benzimidazol-7-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 690 mg, 36% Yield | C(C)(=O)OC(C1([C@H]2SC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Br)C=1C=CC2=C(N3C(=N2)SCCC3)C1 | C26H21BrN4O7S2
